US06441012B1
b) Preparation of 3-Benzyloxy-5-fluoro-2-nitroanisole
A mixture of 5-fluoro-3-methoxy-2-nitrophenol(0.56 g), acetonitrile(5 mL), potassium carbonate(0.46 g) and benzyl bromide(0.56 g) was stirred at reflux for 2 h. The cooled mixture was treated with water and ethyl acetate and the organic phase was separated, washed with brine, dried and evaporated to dryness. The residue was purified by flash chromatography eluting with increasingly polar mixtures of ethyl acetate and hexane to give the product (0.82 g), (m/e278, MH+).

reactant | 5-fluoro-3-methoxy-2-nitrophenol | 0.56 g | FC=1C=C(C(=C(C1)O)[N+](=O)[O-])OC | C7H6FNO4
reactant | acetonitrile | 5 mL | C(C)#N | C2H3N
reactant | potassium carbonate | 0.46 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.56 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-Benzyloxy-5-fluoro-2-nitroanisole | 0.82 g | C(C1=CC=CC=C1)OC=1C(=C(C=C(C1)F)OC)[N+](=O)[O-] | C14H12FNO4
